US09085581B2
Preparation of (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid potassium salt
(R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (15 mg, 0.031 mmol) was dissolved in a suitable solvent (THF or acetone, 0.5 mL) and heated to 60° C. 2.08 M aqueous KOH (15 mL, 0.031 mmol) was added and the reaction mixture was cooled to 35° C. and stirred for 24 h. No solid product was obtained.

reactant | (R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 0.031 mmol, 15 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
reactant | THF | C1CCOC1 | C4H8O
reactant | KOH | 0.031 mmol, 2.08 M, 15 mL | [OH-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid potassium salt | [K+].ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)[O-] | InChI=1S/C24H23ClF3NO4.K/c1-13(2)33-20-6-3-14(9-18(20)24(26,27)28)12-32-16-4-5-19-17(11-16)22(25)23-15(10-21(30)31)7-8-29(19)23;/h3-6,9,11,13,15H,7-8,10,12H2,1-2H3,(H,30,31);/q;+1/p-1/t15-;/m1./s1
